US05109003
7-Butyl-3-ethyl-1-(5-hydroxy-5-methylhexyl)-xanthine (Compound 17)
According to Example 1 7-butyl-3-ethylxanthine was reacted with 1-chloro-5-hydroxy-5-methylhexane; after isolation the final product was recrystallized from a mixture of ethyl acetate and petroleum ether.

reactant | 7-butyl-3-ethylxanthine | C(CCC)N1C=NC=2N(C(NC(C12)=O)=O)CC | C11H16N4O2
reactant | 1-chloro-5-hydroxy-5-methylhexane | ClCCCCC(C)(C)O | C7H15ClO
product | 7-Butyl-3-ethyl-1-(5-hydroxy-5-methylhexyl)-xanthine | C(CCC)N1C=NC=2N(C(N(C(C12)=O)CCCCC(C)(C)O)=O)CC | C18H30N4O3
